US03939202
To a solution of 3,7,11,15,19,23,27,31,35,39-decamethyl-2,6,10,14,18,26,30,34,38-tetracontanonaen-22-on-1-ol (6.8 g) in pyridine (1 g), acetic anhydride (3.5 g) is added, and the resultant mixture is allowed to stand at room temperature for 6 hours. The reaction mixture is treated as in Example 7 (5) (a) to give 1-acetoxy-3,7,11,15,19,23,27,31,35,39-decamethyl-2,6,10,14,18,26,30,34,38-tetracontanonaen-22-one (6.2 g), which is then similarly reduced. The resultant product (4.7 g) is treated as in Example 1 (5) (a) to give 1-acetoxy-3,7,11,15,19,23,27,31,35,39-decamethyl-2,6,10,14,18,26,30,34,38-tetracontanonaen-22ol (1.9 g) as a fraction (1) and 3,7,11,15,19,23,27,31,35,39-decamethyl-2,6,10,14,18,26,30,34,38-tetracontanonaene-1,22-diol (0.8 g) as a fraction (2). The latter is treated with acetic anhydride as above to give 1-acetoxy-3,7,11,15,19,23,27,31,35,39-decamethyl-2,6,10,14,18,26,30,34,38-tetracontanonaen-22-ol (0.73 g).

reactant | 3,7,11,15,19,23,27,31,35,39-decamethyl-2,6,10,14,18,26,30,34,38-tetracontanonaen-22-on-1-ol | 6.8 g | CC(=CCO)CCC=C(CCC=C(CCC=C(CCC=C(CCC(C(CCC=C(CCC=C(CCC=C(CCC=C(C)C)C)C)C)C)=O)C)C)C)C | C50H82O2
reactant | acetic anhydride | 3.5 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 1 g | N1=CC=CC=C1 | C5H5N
product | 1-acetoxy-3,7,11,15,19,23,27,31,35,39-decamethyl-2,6,10,14,18,26,30,34,38-tetracontanonaen-22-one | 6.2 g | C(C)(=O)OCC=C(CCC=C(CCC=C(CCC=C(CCC=C(CCC(C(CCC=C(CCC=C(CCC=C(CCC=C(C)C)C)C)C)C)=O)C)C)C)C)C | C52H84O3
